OpenCircuit factory test: forward_03.cir
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8564879402900082688
* Revision: Rev:1.1
.model OC_HONGJIACHENG_MM3Z5V6 D(IS=2.3241808931e-10 N=1.6527013391e0 RS=5.5127002193e-1 BV=5.6000000000e0 IBV=5.0000000000e-3 NBV=1.0000000000e0)

.temp 25
Itest 0 anode DC 2.0000000000e-2
Vanchor anchor 0 DC 0
Ranchor anchor 0 1G
Ddut anode 0 OC_HONGJIACHENG_MM3Z5V6
.op
.end
