OpenCircuit factory test: MMBTA56 DC gain
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8564879429291319296
* Revision: Rev:1.0
.model OC_HONGJIACHENG_MMBTA56 PNP(IS=2.3174247952e-12 BF=4.1168515670e2 VAF=1.0000000000e2 IKF=7.7504020038e-2 ISE=1.2096567254e-11 NE=1.5000000000e0 NF=1.0000000000e0 RB=1.0000000000e1 RC=1.0000000000e-1 RE=5.0000000000e-2 CJE=1.0000000000e-12 CJC=1.0000000000e-12 TF=1.0000000000e-9)

.temp 25
VCG1 cg1 0 DC -1.0000000000e0
IBG1 0 bg1 DC -6.2500000000e-5
QG1 cg1 bg1 0 OC_HONGJIACHENG_MMBTA56
VCG2 cg2 0 DC -1.0000000000e0
IBG2 0 bg2 DC -1.9354838710e-4
QG2 cg2 bg2 0 OC_HONGJIACHENG_MMBTA56
VCG3 cg3 0 DC -1.0000000000e0
IBG3 0 bg3 DC -6.8965517241e-4
QG3 cg3 bg3 0 OC_HONGJIACHENG_MMBTA56
VCG4 cg4 0 DC -1.0000000000e0
IBG4 0 bg4 DC -4.0000000000e-3
QG4 cg4 bg4 0 OC_HONGJIACHENG_MMBTA56
VCG5 cg5 0 DC -1.0000000000e0
IBG5 0 bg5 DC -1.3157894737e-2
QG5 cg5 bg5 0 OC_HONGJIACHENG_MMBTA56
VCG6 cg6 0 DC -1.0000000000e0
IBG6 0 bg6 DC -1.0000000000e-4
QG6 cg6 bg6 0 OC_HONGJIACHENG_MMBTA56
VCG7 cg7 0 DC -1.0000000000e0
IBG7 0 bg7 DC -2.5000000000e-5
QG7 cg7 bg7 0 OC_HONGJIACHENG_MMBTA56
VCG8 cg8 0 DC -1.0000000000e0
IBG8 0 bg8 DC -1.0000000000e-3
QG8 cg8 bg8 0 OC_HONGJIACHENG_MMBTA56
.op
.end
