OpenCircuit independent review hard-bound probe
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8564879475449364480
* Revision: Rev:1.1
.model OC_HONGJIACHENG_MMSZ5239B D(IS=6.0191557579e-11 N=1.8000000000e0 RS=1.0000000000e-4 BV=9.1000000000e0 IBV=2.0000000000e-2 NBV=1.0000000000e0)
.temp 25
IZ 0 cathode DC 2.000000000000e-2
Ddut 0 cathode OC_HONGJIACHENG_MMSZ5239B
Vall all 0 DC 0
.op
.end
