OpenCircuit factory test: forward_02.cir
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8603080467851718656
* Revision: Rev:1.1
.model OC_HONGJIACHENG_S5MB D(IS=1.3416236608e-4 N=1.8000000000e0 RS=1.0000000000e-4)

.temp 25
Itest 0 anode DC 4.7500000000e0
Vanchor anchor 0 DC 0
Ranchor anchor 0 1G
Ddut anode 0 OC_HONGJIACHENG_S5MB
.op
.end
