OpenCircuit independent review hard-bound probe
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8602925611443118080
* Revision: Rev:1.1
.model OC_HONGJIACHENG_S3MF D(IS=3.1081910856e-6 N=1.8000000000e0 RS=1.0000000000e-4)
.temp 25
Itest 0 anode DC 3.0
Vanchor anchor 0 DC 0
Ranchor anchor 0 1G
Ddut anode 0 OC_HONGJIACHENG_S3MF
.op
.end
